US07893060B2
A solution of thallium tris(trifluoroacetate) (8.45 g, 15.6 mmol) in TFA (35 mL) was added to a solution of 5-fluoro-1H-indole-3-carboxylic acid methyl ester (2 g, 10.4 mmol) in TFA (10 mL) at room temperature and stirred for 2 h. The reaction mixture was evaporated in vacuo and the resulting residue suspended in water (25 mL) before being treated with a solution of potassium iodide (5.2 g, 31.3 mmol) in water (50 mL). The reaction mixture was treated with dichloromethane (100 mL) and methanol (5 mL) and the resulting precipitate removed by filtration through celite. The organic layer was separated, washed successively with sodium thiosulfate solution and brine, then dried (MgSO4) and evaporated in vacuo. The resultant material was dissolved in methanol (60 mL) and treated with 40% aqueous NaOH solution (60 mL) then refluxed for 2 h. The reaction mixture was cooled to RT and extracted with DCM/MeOH (ratio 95:5). The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The resultant residue was purified by column chromatography (silica gel, pentane:EtOAc 75:25) to provide 5-fluoro-4-iodo-1H-indole as a pale brown solid (1.05 g, 39%).

reactant | thallium tris(trifluoroacetate) | 15.6 mmol, 8.45 g | FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F.[Tl+3]
reactant | 5-fluoro-1H-indole-3-carboxylic acid methyl ester | 10.4 mmol, 2 g | COC(=O)C1=CNC2=CC=C(C=C12)F | C10H8FNO2
reactant | potassium iodide | 31.3 mmol, 5.2 g | [I-].[K+]
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | TFA | 35 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 50 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 5-fluoro-4-iodo-1H-indole | 1.05 g, 39% | FC=1C(=C2C=CNC2=CC1)I | C8H5FIN
